US07056918B2
1,3-Dimethyl-5-(2-nitro-propenyl)-1,3-dihydro-benzoimidazol-2-one (2.23 g) was dissolved in methanol (15 mL) and water (40 mL) and treated sequentially with iron (1.67 g) and iron trichloride hexahydrate (174.3 mg). After heating to 75° C. concentrated hydrochloric acid (8 mL) was added in portions over 0.5 hours. The mixture was stirred at 75° C. for 2.5 hours, cooled, treated with saturated sodium bicarbonate and extracted into ethyl acetate The organic layer was dried over sodium sulfate, and concentrated to give 1,3-Dimethyl-5-(2-oxo-propyl)-1,3-dihydro-benzoimidazol-2-one (1.465 g).

reactant | 1,3-Dimethyl-5-(2-nitro-propenyl)-1,3-dihydro-benzoimidazol-2-one | 2.23 g | CN1C(N(C2=C1C=CC(=C2)C=C(C)[N+](=O)[O-])C)=O | C12H13N3O3
reactant | water | 40 mL | O | H2O
reactant | hydrochloric acid | 8 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 15 mL | CO | CH4O
catalyst | iron | 1.67 g | [Fe] | Fe
catalyst | iron trichloride hexahydrate | 174.3 mg | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | 1,3-Dimethyl-5-(2-oxo-propyl)-1,3-dihydro-benzoimidazol-2-one | 1.465 g | CN1C(N(C2=C1C=CC(=C2)CC(C)=O)C)=O | C12H14N2O2
